US09315462B2
Compound 14: 4-(6-hydroxyquinolin-2-yl)-3-methoxybenzoic acid
Followed Scheme 3: Starting Materials: 2-chloroquinolin-6-ol and 4-borono-3-methoxybenzoic acid. 1H NMR (CD3OD, 400 MHz): δ 8.81 (d, J=8.4 Hz, 1H), 8.14 (d, J=9.2 Hz, 1H), 8.10 (d, J=8.4 Hz, 1H), 7.89 (dd, J=6.8, 1.6 Hz, 2H), 7.85 (d, J=8.4 Hz, 1H), 7.69 (dd, J=9.2, 2.8 Hz, 1H), 7.48 (d, J=2.8 Hz, 1H). MS (ESI): m/z 295.7 [M+H]+.

reactant | 2-chloroquinolin-6-ol | ClC1=NC2=CC=C(C=C2C=C1)O | C9H6ClNO
reactant | 4-borono-3-methoxybenzoic acid | B(O)(O)C1=C(C=C(C(=O)O)C=C1)OC | C8H9BO5
product | 4-(6-hydroxyquinolin-2-yl)-3-methoxybenzoic acid | OC=1C=C2C=CC(=NC2=CC1)C1=C(C=C(C(=O)O)C=C1)OC | C17H13NO4
